US04725620
n-Butyl 2-tert-butoxyacetate
A 500-ml, thick-walled Erlenynmeyer flask equipped with a magnetic stirring bar was cooled to -78° C. (dry iece-acetone bath) and charged with isobutylene (150 ml). Then, n-butyl glycolate (20.0 g, 0.151 mol) and 50 ml of methylene chloride was added along with 1 ml of concentrated sulfuric acid. The cold bath was removed and the mixture stirred for 3 days at room temperature. The reaction was quenched with 50 ml of saturated sodium bicarbonate and the product extracted with ether. The ether layer was dried over sodium sulfate and concentrated. After distillation, the title compound was obtained as a colorless oil: bp 64°-65° C. (0.7 mm).

reactant | isobutylene | 150 ml | CC(C)=C | C4H8
reactant | n-butyl glycolate | 0.151 mol, 20.0 g | C(CO)(=O)OCCCC | C6H12O3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | n-Butyl 2-tert-butoxyacetate | C(C)(C)(C)OCC(=O)OCCCC | C10H20O3
